US07947676B2
2-{[4-({3-fluoro-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethanol
The procedure described in Example 1 was repeated using N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide (900 mg, 4.03 mmol) and 3-fluoro-4-[(6-methylpyridin-3-yl)oxy]aniline (967 mg, 4.43 mmol) to give the title compound as a white solid (800 mg, 50%); NMR Spectrum: 2.44 (s, 3H), 3.81 (br t, 2H), 4.34 (t, 2H), 5.13 (br s, 1H), 7.24-7.31 (m, 3H), 7.55 (dd, 1H), 7.98 (dd, 1H) 8.24 (d, 1H), 8.35 (s, 1H), 8.61 (br s, 1H); Mass Spectrum: 397 (MH+).

reactant | N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide | 4.03 mmol, 900 mg | C(#N)C=1C(=NNC1N=CN(C)C)OCCO | C9H13N5O2
reactant | 3-fluoro-4-[(6-methylpyridin-3-yl)oxy]aniline | 4.43 mmol, 967 mg | FC=1C=C(N)C=CC1OC=1C=NC(=CC1)C | C12H11FN2O
product | 2-{[4-({3-fluoro-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethanol | 800 mg, 50% | FC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=C2C(=NC=N1)NN=C2OCCO | C19H17FN6O3
